US03963732
4-hydroxyphenyl-4-sulphoxyphenyl-(2-pyridyl)-methane
20 g. ethyl α-(4-hydroxyphenyl)-α-(4-sulphoxyphenyl)-2-pyridine-acetate monosodium salt were dissolved in 200 ml. 3% aqueous sodium hydroxide solution and the solution then boiled for 1 hour. After cooling, the pH was adjusted to 7.5 by adding diluted sulphuric acid and then distilled to dryness. The residue was treated with boiling ethanol and insoluble material was filtered off. The ethanol extract was concentrated to a small volume to give, by crystallisation, a high yield of the desired 4-hydroxyphenyl-4-sulphoxyphenyl-(2-pyridyl-methane monosodium salt in the form of colourless crystals which melted at 197° - 199°C. (decomposition).

reactant | ethyl α-(4-hydroxyphenyl)-α-(4-sulphoxyphenyl)-2-pyridine-acetate monosodium salt | [Na].OC1=CC=C(C=C1)C(C(=O)OCC)(C1=NC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-pyridyl-methane monosodium salt | [Na].N1=C(C=CC=C1)C
product | 4-hydroxyphenyl-4-sulphoxyphenyl-(2-pyridyl)-methane | OC1=CC=C(C=C1)C(C1=NC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)O | C18H15NO5S
